Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HMED Admission Note
Date of note: ___

PCP:  : ___. 
Location: ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

CC: fall, hypoxia

HPI: Ms. ___ is a ___ yo female here with fall and hypoxia.  
She presented to the ED after being found on the floor of the 
kitchen by her daughter, with un-witnessed episode. She does not 
remember what happened. There is some mention of dizziness. She 
was found to have a cut on the back of her head and brought in 
to the ED.   She had trauma evaluation in the ED, but workup was 
negative for new fracture.  She had a prior fall in ___, 
for which she was seen elsewhere, not admitted, but diagnosed 
with an infection.  The etiology of the fall was not clear, 
although she recently moved into a new apartment with her 
daughter and it is up stairs, and she is nervous about walking 
up stairs.

She denied preceding chest pain, palpitations, shortness of 
breath, headaches.

She was monitored int he ED, but then had episodes of 
desaturation in the ED, and was admitted.  She denies Sob, 
cough, but does complain of chronic rhinorrhea.  No fevers or 
chills.

She has not felt herself since her fall in ___.

Her ROS is positive for chronic rhinorrhea, claudication type 
leg symptoms, and some dizziness.  Otherwise negative in 6 other 
systems.

 
Past Medical History:
PMH:
Hypertension
PVD
CAD, prior stent
Prior CEA on right
Hypothyroidism

 
Social History:
___
Family History:
FH:
No syncope.

 
Physical Exam:
                                                 

Physical exam
afebrile, 136/78 HR 65, RR 15  98% 2L
Gen:  In NAD, younger than stated age.
HEENT:  PERRL, EOMI.  No scleral icterus.  No conjunctival 
injection.   Mucous membranes moist.  No oral ulcers. Hematoma 
on left occiput.
Neck:  Supple, no LAD, no JVP elevation.Prior CEA scar on right, 
bilateral carotid bruits.
Lungs: diminshed at bases, but otherwise CTA bilaterally, no 
wheezes, rales, rhonchi.  Normal respiratory effort.
CV:  RRR, no murmurs, rubs, gallops.
Abdomen:  soft, NT, ND, NABS, no HSM.
Extremities:  warm and well perfused, shiny, hairless, 
hemosiderin deposits.
Neurological:  alert and oriented X 3, CN II-XII intact, hard of 
hearing, hearing aid in left.  No pronator drift.  Full strength 
in upper and lower extremities, downgoing toes.  
Skin:  No rashes or ulcers.
Psychiatric:  Appropriate.
GU:  deferred.

 
Pertinent Results:
___ 09:30AM BLOOD WBC-11.4* RBC-4.30 Hgb-13.5 Hct-41.9 
MCV-97 MCH-31.4 MCHC-32.2 RDW-14.4 RDWSD-51.2* Plt ___
___ 09:30AM BLOOD Neuts-72.5* Lymphs-18.7* Monos-5.6 
Eos-1.2 Baso-0.8 Im ___ AbsNeut-8.26* AbsLymp-2.13 
AbsMono-0.64 AbsEos-0.14 AbsBaso-0.09*
___ 09:30AM BLOOD ___ PTT-28.2 ___
___ 09:30AM BLOOD Glucose-115* UreaN-31* Creat-1.2* Na-139 
K-5.3* Cl-105 HCO3-26 AnGap-13
___ 09:30AM BLOOD Calcium-9.7 Phos-3.2 Mg-2.2
___ 06:06AM BLOOD ___ pO2-67* pCO2-41 pH-7.42 
calTCO2-28 Base XS-1 Intubat-NOT INTUBA

UA negative - with 7 WBCs, no bacteria

CXR with bibasilar infiltrates - either infectious or 
atelectasis.

Cspine and thoracic CTS:

Lspine:
IMPRESSION:  
  
L1 compression fracture with retropulsed osseous fragment is 
likely chronic.  There is no other evidence of fracture.  
Anterior subluxation of L5 on S1 is due to degenerative disc 
disease. 

T spine - 
no fractures

C spine:
1.  Os odontoideum or chronic odontoid fracture with slight 
displacement 
posteriorly of the odontoid tip.  Mechanical stability at this 
level is 
unknown. 
  
No evidence of recent fracture. 
  
2.  Degenerative change at C4 causes moderate narrowing of the 
transverse 
foramen on the left.  Evaluation of the vertebral artery at this 
level is 
limited without IV contrast, however this finding is chronic. 
  
3.  Osteopenia and moderate degenerative change are seen 
throughout the 
cervical spine as detailed above. 

EKG sinus bradycardia, LAFB

 
Brief Hospital Course:
Assessment and Plan: Ms. ___ is a ___ yo female here with a 
fall vs syncope, with unclear history, and now hypoxia, with no 
localizing symtpoms.

## Fall or syncope.
## Compression fx
## Odontoid fx
unclear etiology, does not recall event.  Work up negative here 
for cardiac or neurologic etiology.  She worked well with ___.  
Neurosurgery was consulted given odontoid fx, but flexion 
extension xrays were re-assuring.  She was treated with Tylenol 
and low dose oxycodone for pain.  Tramadol caused nausea.  Close 
PCP follow up was recommended

##  Hypoxia, without symptoms.  CXR with likely atelectasis.  
Improved with ambulation and incentive spirometry

## Possible CKD, stage II, with mild hyperkalemia
- held ___, recheck in AM.  Resumed on discharge

## Bilateral carotid bruits, PVD, Prior CAD
- asa 81 mg po daily
- duplex ultrasounds did not demonstrate severe disease

## Hypothyroidism
- continued home medicaitons

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Losartan Potassium 25 mg PO DAILY 
5. meloxicam 15 mg oral DAILY:PRN pain 
6. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1. Rolling Walker
Rolling walker
dx: fall, prognosis: good
length of need: 13 months
2. Aspirin 81 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Losartan Potassium 25 mg PO DAILY 
7. meloxicam 15 mg ORAL DAILY:PRN pain 
8. Senna 8.6 mg PO BID:PRN c 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0
9. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
10. Acetaminophen 650 mg PO Q8H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth four times a day 
Disp #*120 Tablet Refills:*0
11. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*28 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Syncope
Compression fx
Hypertension
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted post fall.  You were found to have old 
compression fractures in your spine.  Evaluation for your fall 
did not find a clear cause.  This could be related to 
unsteadiness as a result of past falls and a concussion.  Please 
ambulate VERY carefully with your walker.  Please take all 
medications as prescribed.

Please follow up with your PCP ___ 1 week.  Do not drink 
alcohol or drive while taking your pain medications
 
Followup Instructions:
___